* source INPUTSTAGESIM
R_R27         N14545 0  10k TC=0,0 
R_R26         N14549 N14689  10 TC=0,0 
Q_Q18         N14545 N14559 N14579 Q2SC1815
R_R24         N14763 N14667  500 TC=0,0 
V_V7         0 N14579 DC 30v  
Q_Q17         N14549 N14545 N14559 Q2SC1815
V_V10         N14667 0 DC 30v  
R_R23         N15691 N14667  500 TC=0,0 
R_R25         N14549 N15237  10 TC=0,0 
R_R28         N14559 N14579  150 TC=0,0 
X_U3         N15691 N15040 N15237 N14689 0 N14763 MAT02 
V_V11         N15040 0 DC 0Vdc AC 0.1Vac 
